US07317037B2
A. tert-butyl 2-(7-fluoro-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-1H-pyrrole-1-carboxylate
A vial was charged with 5-bromo-7-fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (1.0 g, 3.5 mmol), 1-tert-butoxycarbonyl-2-pyrroleboronic acid (1.12 g, 5.3 mmol), KF (0.67 g, 11.5 mmol), and Pd2(dba)3 monochloroform adduct (54 mg, 0.053 mmol) and placed under a nitrogen atmosphere. THF (8 mL) was added and the mixture was purged with nitrogen for 5 min. P(t-Bu)3 (10% wt. solution in hexane 0.370 mL, 0.126 mmol) was added via syringe and the mixture was stirred at 25° C. for 16 h. The mixture was diluted with EtOAc and filtered through a plug of silica gel and concentrated. Purification by flash chromatography (500 mL 25% hexane/CH2Cl2 then 500 mL 100% CH2Cl2 then 500 mL 5% ethyl acetate/CH2Cl2) afforded the title compound (1.06 g, 88%) as colorless crystals.

reactant | 5-bromo-7-fluoro-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 3.5 mmol, 1.0 g | BrC=1C=C2C(C(NC2=C(C1)F)=O)(C)C | C10H9BrFNO
reactant | 1-tert-butoxycarbonyl-2-pyrroleboronic acid | 5.3 mmol, 1.12 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | KF | 11.5 mmol, 0.67 g | [F-].[K+]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | P(t-Bu)3 | 0.126 mmol, 0.370 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
product | tert-butyl 2-(7-fluoro-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-1H-pyrrole-1-carboxylate | 1.06 g, 88% | FC=1C=C(C=C2C(C(NC12)=O)(C)C)C=1N(C=CC1)C(=O)OC(C)(C)C | C19H21FN2O3
